US06921764B2
3-(2-Chloro-phenyl)-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde
To a well stirred mixture of sodium periodate (1.38 g, 6.45 mmol) in water (6 mL) and tetrahydrofuran (6 mL) was added 3-(2-chloro-phenyl)-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one (0.70 g, 2.15 mmol) all at once. The mixture warmed slightly to the touch and was stirred for 1 hour at ambient temperature. The reaction was filtered through celite and the pad was rinsed with ether. The filtrate was rendered basic by addition of saturated aqueous sodium bicarbonate and phases were separated. The aqueous layer was extracted with ethyl acetate. The combined organic phase was washed with brine, dried over potassium carbonate, and concentrated. The residue was flash chromatographed on silica gel (1×3 inches) with elution proceeding as follows: 50% methylene chloride/hexane (400 mL), nil; (100 mL) and 50% ethyl acetate/hexane (150 mL), 0.51 g (82%) of 3-(2-chloro-phenyl)-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde as about a 1:1 mixture of free aldehyde and hydrate which contained about 20% of 3-(2-chloro-phenyl)-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (from simple hydrolysis of the enamine; exists exclusively in its enolized form to take advantage of an internal hydrogen bond to N1 of the quinazolin-4-one). Identifying features of each of the components of this mixture can be observed in the NMR spectrum as defined in the table below:

reactant | sodium periodate | 6.45 mmol, 1.38 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 3-(2-chloro-phenyl)-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one | 2.15 mmol, 0.70 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=CC=C2C1=O)C=CN(C)C | C18H16ClN3O
reactant | quinazolin-4-one | N1=CNC(C2=CC=CC=C12)=O | C8H6N2O
solvent | water | 6 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-(2-Chloro-phenyl)-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | ClC1=C(C=CC=C1)N1C(=NC2=CC=CC=C2C1=O)C=O | C15H9ClN2O2
